US07351719B2
Z44b) 2-(2-chloro-4-nitro-phenyl)-N,N-diethyl-acetamide
At 0° C. a solution of 3.20 g (13.673 mmol) (2-chloro-4-nitro-phenyl)-acetyl-chloride in 50 mL EtOAc was slowly added dropwise to a solution of 5.67 mL (54.000 mmol) diethylamine in 50 mL EtOAc, then the cooling bath was removed and the mixture was stirred for 2 h at RT . The reaction mixture was diluted with EtOAc, the org. phase was washed with water and saturated aqueous NaCl solution, dried over sodium sulphate and evaporated down i. vac.

reactant | (2-chloro-4-nitro-phenyl)-acetyl-chloride | 13.673 mmol, 3.20 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)Cl | C8H5Cl2NO3
reactant | diethylamine | 54.000 mmol, 5.67 mL | C(C)NCC | C4H11N
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(2-chloro-4-nitro-phenyl)-N,N-diethyl-acetamide | ClC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)N(CC)CC | C12H15ClN2O3
